US04837026
Preparation of 1-octanoylhexahydro-1H-azepine
In a manner similar to that described in Example 1, octanoyl chloride (16.26 g, 0.1M) was treated with hexahydro-1H-azepine (9.92 g, 0.1M). Work up and distillation of the residue gave 15.3 g (68%) of product, b.p. 122/0.8 mm.

reactant | octanoyl chloride | 0.1M, 16.26 g | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | hexahydro-1H-azepine | 0.1M, 9.92 g | N1CCCCCC1 | C6H13N
product | 1-octanoylhexahydro-1H-azepine | 15.3 g, 68% | C(CCCCCCC)(=O)N1CCCCCC1 | C14H27NO
